US07855202B2
3-Chloro-5′-nitro-4,2′:3′,4″-terpyridin-6′-amine
Following the same procedure as in Intermediate 1 (step a), but using 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine, 3-bromo-3′-chloro-5-nitro-2,4′-bipyridin-6-amine was converted to the title compound as yellowish solid (0.84 g, 85%).

reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridine | CC1(OB(OC1(C)C)C1=CC=NC=C1)C | C11H16BNO2
reactant | 3-bromo-3′-chloro-5-nitro-2,4′-bipyridin-6-amine | BrC=1C(=NC(=C(C1)[N+](=O)[O-])N)C1=C(C=NC=C1)Cl | C10H6BrClN4O2
product | 3-Chloro-5′-nitro-4,2′:3′,4″-terpyridin-6′-amine | 0.84 g, 85% | ClC=1C=NC=CC1C1=NC(=C(C=C1C1=CC=NC=C1)[N+](=O)[O-])N | C15H10ClN5O2
